US07622583B2
A mixture of 4-chloro-N-methoxymethyl-N-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (50 mg, 0.092 mmol) in 4M HCl in dioxane (4 mL) and water (1 mL) was stirred at 70° C. for overnight. Reaction mixture was cooled to room temperature, evaporated to dryness and treated with saturated aqueous NaHCO3 solution till pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was purified by flash chromatography (SiO2, 70% EtOAc-hexanes) to afford 4-chloro-N-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridine-4-carbonyl)-pyridin-3-yi]-3-trifluoromethyl-benzenesulfonamide (28.9 mg) as yellow solid (after lyophilization) in 63% yield.

reactant | 4-chloro-N-methoxymethyl-N-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 0.092 mmol, 50 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(C=1C(=NC=C(C1)C)C(=O)C=1C2=C(N=CC1)NN=C2)COC)C(F)(F)F | C22H17ClF3N5O4S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridine-4-carbonyl)-pyridin-3-yi]-3-trifluoromethyl-benzenesulfonamide | 28.9 mg, 63% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(=O)C=1C2=C(N=CC1)NN=C2)C(F)(F)F | C20H13ClF3N5O3S
